US09065058B2
Step 1: Synthesis of 3-(6-Phenyldibenzothiophen-4-yl)-9H-carbazole (abbreviation: DBTCz-IV)
In a 50-mL three-neck flask were put 1.0 g (4.1 mmol) of 3-bromocarbazole, 1.2 g (4.1 mmol) of 6-phenyl-4-dibenzothienylboronic acid, and 62 mg (0.20 mmol) of tris(2-methylphenyl)phosphine. To this mixture were added 15 mL of toluene, 5 mL of ethanol, and 5 mL of a 2.0M aqueous sodium carbonate solution. This mixture was degassed by being stirred while the pressure was reduced. To this mixture was added 9 mg (0.041 mmol) of palladium(II) acetate, and the mixture was stirred at 80° C. for 3 hours under a nitrogen stream. After the stirring, the aqueous layer of this mixture was subjected to, extraction with toluene, and the solution of the extract and the organic layer were combined and washed with saturated brine. The organic layer was dried over magnesium sulfate. This mixture was separated by gravity filtration, and the filtrate was concentrated to give a solid. This solid was purified by silica gel column chromatography (a developing solvent in which the toluene/hexane ratio was 1:2 and then a developing solvent in which the toluene/hexane ratio was 3:2). Addition of ethyl acetate/hexane to the obtained solid was followed by irradiation with ultrasonic waves, and the solid was collected by suction filtration, so that 1.0 g of a white solid which was the object of the synthesis in 59% yield. The synthesis scheme of Step 1 is illustrated in (a-13).

reactant | 3-bromocarbazole | 4.1 mmol, 1.0 g | BrC=1C=CC=2NC3=CC=CC=C3C2C1 | C12H8BrN
reactant | 6-phenyl-4-dibenzothienylboronic acid | 4.1 mmol, 1.2 g | C1(=CC=CC=C1)C1=CC=CC=2C3=C(SC21)C(=CC=C3)B(O)O | C18H13BO2S
reactant | tris(2-methylphenyl)phosphine | 0.20 mmol, 62 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
reactant | sodium carbonate | 2.0M | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium(II) acetate | 0.041 mmol, 9 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(6-Phenyldibenzothiophen-4-yl)-9H-carbazole | 59% yield | C1(=CC=CC=C1)C1=CC=CC=2C3=C(SC21)C(=CC=C3)C=3C=CC=2NC1=CC=CC=C1C2C3 | C30H19NS
